US07456316B2
1,4-Bis[4-(2-hydroxyethyl)phenylamino]-5,8-dihydroxyanthraquinone Ib
100 g of 2-(4-aminopheny)-ethanol and 20 g of sodium acetate are introduced into a laboratory reaction apparatus and, at 120° C., 20 g of 1,4-dichloro-5,8-dihydroxyanthraquinone are added thereto. The reaction mixture is stirred for 4 hours at 120° C. and then poured into 1.2 litres of 2N hydrochloric acid. The precipitate is filtered off, washed with water until neutral and dried in a vacuum drying chamber.

reactant | 2-(4-aminopheny)-ethanol | 100 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | sodium acetate | 20 g | C(C)(=O)[O-].[Na+]
reactant | 1,4-dichloro-5,8-dihydroxyanthraquinone | 20 g | ClC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)Cl | C14H6Cl2O4
solvent | hydrochloric acid | 2N, 1.2 litres | Cl | ClH
product | 1,4-Bis[4-(2-hydroxyethyl)phenylamino]-5,8-dihydroxyanthraquinone | OCCC1=CC=C(C=C1)NC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)NC1=CC=C(C=C1)CCO | C30H26N2O6
